US07491710B2
The methylphosphonothioic acid O,O-bis-(4-nitrophenyl)ester intermediate is prepared according to procedure E using 536 mg of methylphosphonothioic dichloride, 345 mg of sodium hydride (50% in oil), 1 g of p-nitrophenol and 10 ml of tetrahydrofuran. 1.19 g of expected product are collected.

reactant | methylphosphonothioic dichloride | 536 mg | CP(=S)(Cl)Cl | CH3Cl2PS
reactant | sodium hydride | 345 mg | [H-].[Na+]
reactant | p-nitrophenol | 1 g | C1=CC(=CC=C1[N+](=O)[O-])O | C6H5NO3
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | methylphosphonothioic acid O,O-bis-(4-nitrophenyl)ester | [N+](=O)([O-])C1=CC=C(C=C1)OP(OC1=CC=C(C=C1)[N+](=O)[O-])(=S)C | C13H11N2O6PS
